US07781443B2
(2R,4S)-4-{[3,5-Bis(trifluoromethyl)benzyl]-(5-hydroxymethyl-pyrimidin-2-yl)}amino-2-ethyl-6-methoxy-3,4-dihydro-2H-[1,5]naphthyridine-1-carboxylic acid ethyl ester (130 mg) is dissolved in acetone (2.5 ml), and thereto are added potassium carbonate (108 mg) and ethyl bromoacetate (0.129 ml). The mixture is stirred at room temperature for 6 days. The reaction solution is concentrated under reduced pressure, and thereto is added water. The mixture is stirred for 40 hours, and partitioned by adding chloroform to the reaction solution. The organic layer is dried over magnesium sulfate, then concentrated under reduced pressure to give (2R,4S)-4-{[3,5-bis(trifluoromethyl)benzyl]-(5-carboxymethoxymethylpyrimidin-2-yl)}amino-2-ethyl-6-methoxy-3,4-dihydro-2H-[1,5]naphthyridine-1-carboxylic acid ethyl ester (33.8 mg). MS (m/z): 672 [M+H]+.

reactant | (2R,4S)-4-{[3,5-Bis(trifluoromethyl)benzyl]-(5-hydroxymethyl-pyrimidin-2-yl)}amino-2-ethyl-6-methoxy-3,4-dihydro-2H-[1,5]naphthyridine-1-carboxylic acid ethyl ester | 130 mg | C(C)OC(=O)N1[C@@H](C[C@@H](C2=NC(=CC=C12)OC)NC1=NC=C(C(=N1)CC1=CC(=CC(=C1)C(F)(F)F)C(F)(F)F)CO)CC | C28H29F6N5O4
reactant | potassium carbonate | 108 mg | C([O-])([O-])=O.[K+].[K+]
reactant | ethyl bromoacetate | 0.129 ml | BrCC(=O)OCC | C4H7BrO2
solvent | acetone | 2.5 ml | CC(=O)C | C3H6O
product | (2R,4S)-4-{[3,5-bis(trifluoromethyl)benzyl]-(5-carboxymethoxymethylpyrimidin-2-yl)}amino-2-ethyl-6-methoxy-3,4-dihydro-2H-[1,5]naphthyridine-1-carboxylic acid ethyl ester | 33.8 mg | C(C)OC(=O)N1[C@@H](C[C@@H](C2=NC(=CC=C12)OC)NC1=NC=C(C(=N1)CC1=CC(=CC(=C1)C(F)(F)F)C(F)(F)F)COCC(=O)O)CC | C30H31F6N5O6
